US07674803B2
2-(tert-Butoxycarbonylethylamino)propionic acid
Methyl 2-(tert-butoxycarbonylethylamino)propionate (1.27 g; 5.5 mmol) is dissolved in 5 ml of methanol, and potassium hydroxide (1.2 eq.; 6.6 mmol; 0.37 g) dissolved in 1.6 ml of water is then added. The reaction medium is left at room temperature for 12 hours and then evaporated to dryness, taken up in water and washed with ether. The aqueous phase is acidified by adding 1N hydrochloric acid and extracted three times with ether. The organic phases are combined, dried over sodium sulfate and evaporated to dryness to give 0.88 g of a white solid.

reactant | Methyl 2-(tert-butoxycarbonylethylamino)propionate | 5.5 mmol, 1.27 g | C(C)(C)(C)OC(=O)CCNC(C(=O)OC)C | C11H21NO4
reactant | potassium hydroxide | 6.6 mmol, 0.37 g, 1.2 eq. | [OH-].[K+]
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 1.6 ml | O | H2O
product | 2-(tert-Butoxycarbonylethylamino)propionic acid | 0.88 g, Yield: 74% | C(C)(C)(C)OC(=O)CCNC(C(=O)O)C | C10H19NO4
